US08461164B2
To a suspension of NaH (60% dispersion in oil; 1.2 g, 30 mmol) in 30 mL of DMSO was added a solution of 4-(trifluoromethyl)phenol (1.86 g, 30 mmol) in 20 mL of DMSO and the mixture was stirred for 30 min. To this was added methyl 6-chloronicotinate (5.13 g, 30 mmol) and the solution was heated overnight at 70° C. The reaction was cooled to room temperature and then diluted with Et2O. The solution was washed with H2O, brine, dried with Na2SO4, suction filtered, and the solvent removed in vacuo. The residue was purified via normal phase column chromatography over SiO2 using 15% Et2O/pentane to yield 6-(4-trifluoromethylphenoxy)-nicotinic acid methyl ester (4.5 g) as a colorless solid: 1H-NMR (300 MHz, CDCl3) δ 8.81 (dd, J=2.5, 0.6 Hz, 1H), 8.33 (dd, J=8.6, 2.4 Hz, 1H), 7.69 (d, J=8.5 Hz, 2H), 7.31-7.24 (m, 2H), 7.02 (dd, J=8.5, 0.6 Hz, 1H), 3.93 (s, 3H); EIMS m/z 297 ([M]+).

reactant | NaH | 30 mmol, 1.2 g | [H-].[Na+]
reactant | 4-(trifluoromethyl)phenol | 30 mmol, 1.86 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | methyl 6-chloronicotinate | 30 mmol, 5.13 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 6-(4-trifluoromethylphenoxy)-nicotinic acid methyl ester | 4.5 g | COC(C1=CN=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C14H10F3NO3
